US05219862
6-cyano-2-hydroxymethyl-8beta-ergoline-carboxylic acid methyl ester
161 mg of 6-cyano-8beta-methoxycarbonyl-2-ergoline-carbaldehyde (5 mmol) is dissolved in 10 ml of acetonitrile and reduced with 30 ml of sodium borohydride at room temperature in 1 hour. The solvent is largely evaporated, acidified with 2N hydrochloric acid and with addition of aqueous sodium bicarbonate solution the substance is obtained, yield 83%.

reactant | 6-cyano-8beta-methoxycarbonyl-2-ergoline-carbaldehyde | 5 mmol, 161 mg | C(#N)N1C[C@@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)C=O)C(=O)OC | C18H17N3O3
reactant | sodium borohydride | 30 ml | [BH4-].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 6-cyano-2-hydroxymethyl-8beta-ergoline-carboxylic acid methyl ester | yield 83% | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)CO)C#N | C18H19N3O3
